US05221676
1-Cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-1,8-naphthyridine-3-carboxylic acid
Starting from 7-chloro 1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (1.33 g, 4.7 mmol) and 2-(3 pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (1.64 g, 88%) as an off-white solid, mp 203°-204° C.

reactant | 7-chloro 1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 4.7 mmol, 1.33 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 2-(3 pyrrolidinyl)pyridine | N1CC(CC1)C1=NC=CC=C1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4 dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-1,8-naphthyridine-3-carboxylic acid | 1.64 g, 88% | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)C1=NC=CC=C1)F)=O)C(=O)O | C21H19FN4O3
